2179-02-13 07:40:00 Physician Resident Progress Note
Chief Complaint: UGIB (variceal).
   24 Hour Events:
   Events from [**2-11**]
   - Patient tolerated PO lactulose and sip/clears without regurgitation;
   decision was made not to place a NG tube
   - Bedside ultrasound did not show a collection of ascites for
   diagnostic paracentesis diagnosis.
   - Patient with bowel movement that appeared dark, but nursing concern
   regarding new bleed. Hct sent at 1600, which was stable at 28.2, 29.1
   at [**2169**].
   - Patient with good response to AM lasix with -1.5L at 1530; 1600
   electrolytes repleted.
   - Lactulose increased to 45ml as patient still with altered mental
   status in afternoon.
   - Patient's RIJ trauma line pulled.
   - Patient with continued altered mental status during late evening, and
   started on Ativan CIWA in the low likelihood this is related with
   withdrawal. He received one milligram during the late evening which
   seems to have calmed him down.
   - Patient with some erythema of toe
   [**2-12**]
   - I/O: -1.5 liters at (2200) after 40mg IV lasix
   - Hepatology: Ceftriaxone last day today, Continue as we are.
   - PO Ativan this AM, monitored on CIWA. Agitation, Mental Status seemed
   to improve sp ativan. Spoke with hepatology, plan for [**Doctor Last Name 976**]-[**Doctor Last Name 2578**] if
   continues to be stable.
   - In early evening developed more agitation, redosed ativan, then 5mg
   Haldol IV. Became Hypertensive, Tachycardic, and agitated. Ativan 1 mg
   IV given. Concluded: Best to avoid Haldol.
   Allergies:
   Ketorolac
   Unknown;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2179-2-10**] 11:45 AM
   Ceftriaxone - [**2179-2-12**] 12:00 PM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2179-2-12**] 05:51 PM
   Lorazepam (Ativan) - [**2179-2-13**] 12:55 AM
   Pantoprazole (Protonix) - [**2179-2-13**] 01:00 AM
   Other medications:
   .
   Changes to medical and family history:
   None.
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-2-13**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**81**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 115 (95 - 130) bpm
   BP: 161/91(108) {120/64(78) - 191/112(128)} mmHg
   RR: 20 (13 - 22) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
    This a.m. stable with HR ~ 100 and BP ~ 140/80 (was sleeping)
   Total In:
                                                                    170 mL
                                                                    548 mL
   PO:
   TF:
   IVF:
                                                                    170 mL
                                                                    548 mL
   Blood products:
   Total out:
                                                                  1,900 mL
                                                                    500 mL
   Urine:
                                                                    900 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,730 mL
                                                                     48 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///24/
   Physical Examination
   General: Interactive but stuporous. Sitting in chair.
   HEENT: Sclera mild icterus. MMM.
   Neck: Supple.
   Lungs: Coarse breath sounds bilat
   CV: Tachycardic, regular rhythm, normal S1 + S2, no murmurs, rubs,
   gallops
   Abdomen: Soft, non-tender, mildly distended, bowel sounds present, no
   rebound tenderness or guarding.  Dullness to percussion b/l on flanks.
   GU: Foley
   Ext: Warm, well perfused, bilateral edema. Left great toe with minimal
   erythema surrounding the toe nail anteriorly, no exudate, no warmth,
   good distal pulses.
   Neuro: Oriented to self only and inconsistent with following simple
   instructions. Spontaneous movement of all limbs, but poor posture gives
   impression of stupor and low tone. No asterixis. Slightly tremulous on
   action and at rest.
   Labs / Radiology
   189 K/uL
   9.4 g/dL
   140 mg/dL
   0.5 mg/dL
   24 mEq/L
   3.2 mEq/L
   16 mg/dL
   112 mEq/L
   144 mEq/L
   27.7 %
   9.3 K/uL
        [image002.jpg]
                             [**2179-2-10**]  04:19 PM
                             [**2179-2-10**]  04:41 PM
                             [**2179-2-11**]  02:23 AM
                             [**2179-2-11**]  02:45 AM
                             [**2179-2-11**]  03:40 PM
                             [**2179-2-11**]  10:45 PM
                             [**2179-2-12**]  05:54 AM
                             [**2179-2-12**]  07:48 AM
                             [**2179-2-12**]  07:03 PM
                             [**2179-2-13**]  12:41 AM
   WBC
   14.6
   14.4
   9.9
   9.3
   Hct
   29.7
   28.0
   28.2
   29.1
   29.9
   27.7
   Plt
   181
   172
   140
   189
   Cr
   0.8
   0.7
   0.6
   0.6
   0.5
   TCO2
   24
   24
   Glucose
   151
   147
   126
   163
   140
   Other labs: PT / PTT / INR:18.4/35.7/1.7, ALT / AST:120/184, Alk Phos /
   T Bili:164/7.4, Fibrinogen:194 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:2.3 g/dL, LDH:323 IU/L, Ca++:8.1 mg/dL, Mg++:1.7 mg/dL, PO4:2.9
   mg/dL
   Imaging: No new imaging.
   Microbiology: 5 sets of blood cultures since [**2-9**] with no growth yet.
   Was on vancomycin i.v.
   The positive result:
   [**2179-2-9**] 7:36 am BLOOD CULTURE      Source: Line-cordis.
      Blood Culture, Routine (Preliminary):
         GRAM POSITIVE COCCUS(COCCI).    POSSIBLE ENTEROCOCCUS SPECIES.
      Aerobic Bottle Gram Stain (Final [**2179-2-10**]):
         REPORTED BY PHONE TO [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 12655**] @ 6:05A [**2179-2-10**].
         GRAM POSITIVE COCCI.
         IN PAIRS AND CHAINS.
   ECG: .
   Assessment and Plan
   50 yo M ELSD secondary to EtOH abuse admitted to OSH with variceal
   bleed s/p EGD with banding x2 and subsequent alcohol withdrawal
   transferred to [**Hospital1 19**] for management of recurrent refractory UGIB s/p
   [**State **] tube placement. TIPS performed. HCT stable. Now with AMS
   concern for benzo. withdraw and hepatic encephalopathy.
   .
   # UGIB: s/p TIPS: HCT stable. Hemodynamically stable.  Recap of
   events:  (Source seen on endoscopy at OSH was venous blood that was
   attempted to be sclerosed but then opened up.  GE ulcers also seen on
   previous banding sites that were non-bleeding.  Patient has already had
   banding x 2 at OSH.  Pt s/p 7U PRBC and 4 FPP at OSH, has had 2 units
   on arrival to [**Hospital1 19**] with activation of massive transfusion protocol;
   has not had any transfusions since.  TIPS performed [**2-9**]. [**State **]
   tube removed [**2-10**].)
   - PPI PO BID (although might this be responsible for elevated liver
   enzymes?)
   - Needs repeat ultrasound with doppler [**2-16**] to assess TIPS patency
   - Will start sips to clears diet today; NGT ok per hepatology if
   necessary; will continue to monitor
   - Continue active type and screen
   - Obtain pm Hct, and monitor; defer transfusion at this time since
   overall improved picture; Keep in mind prior goals Hct > 30, INR < 1.6,
   platelets > 70, fibrinogen > 100
   - Appreciate and will continue to follow hepatology recs
   - Last day Ceftriaxone today.
   - Restart vancomycin given great risk if TIPS becomes infected
   # Positive blood culture x1 set. Coag+ in one set of blood cultures.
   Patient does not look septic, other cultures negative. Suspect is a
   contaminant, but given medical comorbidities, lines and recent
   hospitalization, started treatment and continue to check cultures.
   - Restart vancomycin (was discontinued yesterday, first started on [**2-10**]
   and restarted today)
   - Repeat BC today.
   # AMS
   Patient is stuporous today, without focality. Classic for delirium, has
   been picking at sheets, inattentive and showed fluctuating mental
   status. Thus, is encephalopathic but without asterixis and less likely
   due to hepatic dysfunction. Respiratory status and renal function are
   also good. Given alcohol history, need to check B12. Also initiate
   reversible causes of dementia workup.
   - B12, TSH and consider HIV testing
   - Continue lactulose, rifixamin
   - PO Ativan, CIWA scale
   - Avoid Haldol
   - Continue to monitor
   # Decreased UOP
   Resolving with good output to Lasix last night. Cr downtrending s/p
   lasix 40mg IV. Still appears to be net volume up on exam. Uncertain
   etiology and likely acute, [**3-2**] volume overload. Less likely
   AIN/ATN/HRS.
   - Follow net fluid balance and give Lasix to ensure negative today.
   - I/O goal
one liter
   - Continue to monitor UOP, pm electrolytes
   # Liver Enzymes
   Rose at admission, led by LDH and now primarily cholestatic, although
   ALT and AST also elevated. Concern for partial obstruction of biliary
   tract given indolent cholestatic picture, however some parenchymal
   enzymes also. Could be pantoprazole.
   - Add-on GGT, AFP, direct bilirubin
   # EtOH withdrawal: Patient has had high benzo requirement at OSH,
   required intubation with multiple drips. Now out of time period for
   EtOH withdrawal but has been treated with substantial amount of
   benzodiazepine.
   - Consider ativan (short-term) prn, CIWA scale
   - Continue thiamine, folate
   # Hep C/cirrhosis: Likely secondary to alcohol and hepatitis C.
   Unclear if patient listed on transplant list, although unlikely as
   patient appears to be actively drinking. Is HCV positive and borderline
   for HBV shell antibody.
   - AFP as above
   - Continue to follow hepatology recs
   - may need lasix/aldactone in the future
   - Continue to monitor for signs of encephalopathy
   - continue lactulose/rifaximin
   # DM: Unclear if on insulin at home per notes.
   - Continue SSI
   - Send A1c
   # FEN: IVF maintenance + bolus prn, replete electrolytes prn, will
   start sip to clears today
   # Prophylaxis: Pneumoboots, no anticoagulation; PPI
   # Access: RIJ [**Location (un) 342**], PIV 18 gauge x2. Will attempt to remove RIJ this pm.
   # Communication: Patient & sister [**Doctor First Name 2049**]
   # Code:  Full
   # Disposition: ICU pending clinical improvement; possible to floor
   later this pm although will likely stay in ICU overnight.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2179-2-12**] 06:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2179-02-14 08:07:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Negative in the evening, but total fluid balance positive on [**2-14**]
   a.m.
   - Mental status with dense delerium continues (oriented to self only -
   asked for a drink (of alcohol) again)
   - Did not become agitated in evening (as night before)
   - Still needs restrains x 3 or 4.
   - Did not require extra sedation
   Allergies:
   Ketorolac
   Unknown;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2179-2-12**] 12:00 PM
   Vancomycin - [**2179-2-13**] 10:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2179-2-14**] 12:13 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-2-14**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**81**] AM
   Tmax: 36.7
C (98
   Tcurrent: 36.1
C (96.9
   HR: 100 (84 - 121) bpm
   BP: 154/91(107) {129/81(94) - 168/116(126)} mmHg
   RR: 15 (13 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,816 mL
                                                                  1,214 mL
   PO:
                                                                  1,050 mL
                                                                    780 mL
   TF:
   IVF:
                                                                  1,676 mL
                                                                    434 mL
   Blood products:
   Total out:
                                                                  2,260 mL
                                                                    480 mL
   Urine:
                                                                  1,560 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    556 mL
                                                                    734 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   General: Interactive but stuporous. Sitting in chair.
   HEENT: Sclera mild icterus. MMM.
   Neck: Supple.
   Lungs: Coarse breath sounds bilat
   CV: Tachycardic, regular rhythm, normal S1 + S2, no murmurs, rubs,
   gallops
   Abdomen: Soft, non-tender, mildly distended, bowel sounds present, no
   rebound tenderness or guarding.  Dullness to percussion b/l on flanks.
   GU: Foley
   Ext: Warm, well perfused, bilateral edema. Left great toe with minimal
   erythema surrounding the toe nail anteriorly, no exudate, no warmth,
   good distal pulses.
   Neuro: Oriented to self only and inconsistent with following simple
   instructions. Spontaneous movement of all limbs, but poor posture gives
   impression of stupor and low tone. No asterixis. Slightly tremulous on
   action and at rest.
   Labs / Radiology
   171 K/uL
   10.3 g/dL
   126 mg/dL
   0.6 mg/dL
   25 mEq/L
   3.6 mEq/L
   9 mg/dL
   110 mEq/L
   143 mEq/L
   30.0 %
   8.8 K/uL
        [image002.jpg]
                             [**2179-2-11**]  02:23 AM
                             [**2179-2-11**]  02:45 AM
                             [**2179-2-11**]  03:40 PM
                             [**2179-2-11**]  10:45 PM
                             [**2179-2-12**]  05:54 AM
                             [**2179-2-12**]  07:48 AM
                             [**2179-2-12**]  07:03 PM
                             [**2179-2-13**]  12:41 AM
                             [**2179-2-13**]  04:25 PM
                             [**2179-2-14**]  04:12 AM
   WBC
   14.4
   9.9
   9.3
   8.8
   Hct
   28.0
   28.2
   29.1
   29.9
   27.7
   28.9
   30.0
   Plt
   172
   140
   189
   171
   Cr
   0.8
   0.7
   0.6
   0.6
   0.5
   0.5
   0.6
   TCO2
   24
   Glucose
   151
   147
   126
   163
   140
   160
   126
   Other labs: PT / PTT / INR:18.2/35.1/1.6, ALT / AST:100/134, Alk Phos /
   T Bili:175/7.4, Fibrinogen:194 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:2.3 g/dL, LDH:336 IU/L, Ca++:7.7 mg/dL, Mg++:1.9 mg/dL, PO4:2.8
   mg/dL
   Assessment and Plan
   50 yo M ELSD secondary to EtOH abuse admitted to OSH with variceal
   bleed s/p EGD with banding x2 and subsequent alcohol withdrawal
   transferred to [**Hospital1 19**] for management of recurrent refractory UGIB s/p
   [**State **] tube placement and subsequent removal. TIPS performed
   although with modest drop in gradient s/p procedure. HCT stable. Now
   with AMS concern for benzo. withdraw and hepatic encephalopathy.
   .
   # AMS
   Patient continues to be stuporous today, without focality. Classic for
   delirium, has been picking at sheets, inattentive and showed
   fluctuating mental status. Thus, is encephalopathic but without
   asterixis and less likely due to hepatic dysfunction. Respiratory
   status and renal function are also good. Given alcohol history, need to
   check B12 as possible Korsakoff. Also initiate reversible causes of
   dementia workup.
   - Consider B12, TSH
   - Consider HIV testing
   - Continue Lactulose, Rifixamin
   - PO Ativan, CIWA scale
   - Avoid Haldol
   - Continue to re-assess
   # UGIB: s/p TIPS: HCT stable. Hemodynamically stable.  Recap of
   events:  (Source seen on endoscopy at OSH was venous blood that was
   attempted to be sclerosed but then opened up.  GE ulcers also seen on
   previous banding sites that were non-bleeding.  Patient has already had
   banding x 2 at OSH.  Pt s/p 7U PRBC and 4 FPP at OSH, has had 2 units
   on arrival to [**Hospital1 19**] with activation of massive transfusion protocol;
   has not had any transfusions since.  TIPS performed [**2-9**]. [**State **]
   tube removed [**2-10**].)
   - Continue PPI PO bid
   - Obtain ultrasound with Doppler by [**2-16**] (will likely do on Monday) to
   assess TIPS patency
   - Continue diet; NGT ok per hepatology if necessary; will continue to
   monitor
   - Continue active type and screen
   - Obtain pm Hct, and monitor; defer transfusion at this time since
   overall improved picture; Keep in mind prior goals Hct > 30, INR < 1.6,
   platelets > 70, fibrinogen > 100
   - Appreciate and will continue to follow Hepatology recs
   - Finished Ceftriaxone [**2-13**]
   - Restart vancomycin given great risk if TIPS becomes infected; will
   need trough
   # Positive blood culture x1 set. Coag+ in one set of blood cultures.
   Patient does not look septic, other cultures negative. Suspect is a
   contaminant, but given medical comorbidities, lines and recent
   hospitalization, started treatment and continue to check cultures.
   - Restart and continue Vancomycin (was discontinued [**2-12**], first started
   on [**2-10**] and restarted [**2-13**])
   - Repeat blood culture qd for 3 days (1/16
 [**2-15**])
   - Obtain CXR, UA
   # Elevated Liver Enzymes
   Rose at admission, led by LDH and now primarily cholestatic, although
   ALT and AST also elevated. Concern for partial obstruction of biliary
   tract given indolent cholestatic picture, however some parenchymal
   enzymes also. Could be pantoprazole.
   - Continue to trend liver enzymes; downtrending
   - Follow GGT (180), AFP (2.8), direct bilirubin (5.1)
   - Obtain ultrasound as per above
   # Decreased UOP
   Resolving with good output to Lasix [**2-12**]. Cr downtrending s/p lasix
   40mg IV. Still appears to be net volume up on exam. Uncertain etiology
   and likely acute, [**3-2**] volume overload. Less likely AIN/ATN/HRS.
   - Follow net fluid balance and give Lasix to ensure negative today with
   goal -1 to -2L
   - Continue to monitor UOP, pm electrolytes
   # EtOH withdrawal: Patient has had high benzo requirement at OSH,
   required intubation with multiple drips. Now out of time period for
   EtOH withdrawal but has been treated with substantial amount of
   benzodiazepine.
   - PO Ativan, CIWA scale
   - PO Thiamine, Folate
   # Hep C/cirrhosis: Likely secondary to alcohol and hepatitis C.
   Unclear if patient listed on transplant list, although unlikely as
   patient appears to be actively drinking. Is HCV positive and borderline
   for HBV shell antibody.
   - AFP as above
   - Continue to follow hepatology recs
   - [**Month (only) 51**] need Aldactone in the future
   - Continue Lactulose, Rifixamin
   - Continue to follow AMS as per above
   # DM: Unclear if on insulin at home per notes.
   - Continue SSI
   - Send A1c
   # FEN: IVF maintenance + bolus prn, replete electrolytes prn; low
   sodium regular diet, soft dysphagia
   # Prophylaxis: Pneumoboots, no anticoagulation; PPI
   # Access: PIV 18 gauge x2
   # Communication: Patient & sister [**Doctor First Name 2049**]
   # Code:  Full
   # Disposition: ICU pending clinical improvement; possible to floor
   later this pm.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2179-2-12**] 06:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: